US09351491B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, the acid chloride (0.354 g, 1.40 mmol) was reacted with 2-azidoethanamine (0.121 g, 1.40 mmol) and triethylamine (0.284 g, 2.80 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-4-nonylbenzamide (0.339 g, 80% yield). 1H NMR (300 MHz, CDCl3) δ 6.21 (s, 1H), δ 3.40 (s, 4H), δ 2.19 (t, J=7.2 Hz, 2H), δ 1.62 (t, J=6.0 Hz, 2H), δ 1.22 (bs, 14H), δ 0.842 (t, J=6.3 Hz, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 173.8, 51.1, 30.1, 36.8, 32.1, 29.8, 29.7, 29.6, 29.5, 29.2, 25.9, 22.9, 14.3 ppm; HRMS (ESI) calcd for C14H28N4O (M+) 268.2263. found 268.2259.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 2-azidoethanamine | 1.40 mmol, 0.121 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.80 mmol, 0.284 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-4-nonylbenzamide | 0.339 g, 80% yield | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)CCCCCCCCC)=O | C18H28N4O
